US07517828B2
For example, 1-cyclohexenyloxy-[((1-naphthyl)phenyl)methyl]dimethylsilane, which is a silyl enol ether form of cyclohexanone, may be formed by treating cyclohexanone with lithium diisopropylamide at low temperature (e.g. −78° C.) so as to generate a lithium enolate, and capturing this with [((1-naphthyl)phenyl)methyl]dimethylsilyl chloride. By the same method, a ketone having an active hydrogen such as acetone or benzophenone may be derivatized to the corresponding silyl enol ether. Furthermore, a silyl ketene acetal form of benzyl acetate may be formed by treating benzyl acetate with lithium diisopropylamide at low temperature (e.g. −78° C.) so as to generate a lithium enolate, and capturing this with [((1-naphthyl)phenyl)methyl]dimethylsilyl chloride. By the same method, a carboxylic acid ester having an active hydrogen may be derivatized to the corresponding silyl ketene acetal.

reactant | 1-cyclohexenyloxy-[((1-naphthyl)phenyl)methyl]dimethylsilane | C1(=CCCCC1)O[Si](C)(C)CC1=C(C=CC=C1)C1=CC=CC2=CC=CC=C12 | C25H28OSi
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | [((1-naphthyl)phenyl)methyl]dimethylsilyl chloride | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC=C1)C[Si](C)(C)Cl | C19H19ClSi
reactant | hydrogen | [H][H] | H2
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | acetone | CC(=O)C | C3H6O
product | benzyl acetate | C(C)(=O)OCC1=CC=CC=C1 | C9H10O2
